US09085576B2
A vial was charged with 3-amino-5-(trifluoromethyl)picolinamide (615 mg, 3.00 mmol) and triethyl orthoformate (2496 μl, 14.99 mmol). The vial was sealed and the mixture was heated at 120° C. for 17 h. Upon cooling, the heterogeneous mixture was filtered and the solids were washed with heptane. 7-(trifluoromethyl)pyrido[3,2-d]pyrimidin-4(3H)-one (540 mg, 2.51 mmol, 84% yield) was isolated as a tan solid. LC/MS (ESI+) m/z=216.0 (M+H).

reactant | 3-amino-5-(trifluoromethyl)picolinamide | 3.00 mmol, 615 mg | NC=1C(=NC=C(C1)C(F)(F)F)C(=O)N | C7H6F3N3O
reactant | triethyl orthoformate | 14.99 mmol, 2496 μl | C(OCC)(OCC)OCC | C7H16O3
product | 7-(trifluoromethyl)pyrido[3,2-d]pyrimidin-4(3H)-one | 2.51 mmol, 540 mg, 84% yield | FC(C1=CC=2N=CNC(C2N=C1)=O)(F)F | C8H4F3N3O
